US08623901B2
[2-(3-Methyl-pyrazol-1-yl)-phenyl]acetonitrile
A round bottom flask was charged under inert atmosphere with copper iodide (760 mg, 4 mmol), cesium carbonate (3.91 g, 12 mmol) then dimethylformamide (20 mL), previously degassed, was added followed by 2-Bromophenylacetonitrile (519 μL, 4 mmol), 3-Methylpyrazole (3.32 mL, 40 mmol) and N—N′-dimethylethylenediamine (425.86 μL, 4 mmol). The reaction mixture was heated to 120° C. for 2.5 hours. After cooling the reaction mixture was filtered through a Celite pad that was rinsed with dimethylformamide. The volume was reduced under reduced pressure, saturated ammonium chloride aqueous solution was added and extracted with ethyl acetate. The organic phase was washed with saturated aqueous NH4Cl solution, brine then dried over Na2SO4 and the solvent was removed under reduced pressure. The crude product was purified by flash chromatography on SiO2 using cyclohexane/ethyl acetate mixture of increasing polarity (from 100% cyclohexane to 100% ethyl acetate) as eluent. The oil obtained was further purified by SPE Stratosphere “PL-THIOL MP” to completely remove copper salts. The title compound was obtained as a thick dark oil (300 mg, 38%).

reactant | cesium carbonate | 12 mmol, 3.91 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-Bromophenylacetonitrile | 4 mmol, 519 μL | BrC1=C(C=CC=C1)CC#N | C8H6BrN
reactant | 3-Methylpyrazole | 40 mmol, 3.32 mL | CC1=NNC=C1 | C4H6N2
catalyst | copper iodide | 4 mmol, 760 mg | [Cu](I)I
product | [2-(3-Methyl-pyrazol-1-yl)-phenyl]acetonitrile | CC1=NN(C=C1)C1=C(C=CC=C1)CC#N | C12H11N3
